US07582775B2
Preparation of 5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carboxylic acid
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid (0.280 g, 0.619 mmol) is reduced using NaBH4 (14 mg, 0.376 mmol) analogous to Example 2 to afford the title compound (0.241 g, 86%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-2-carboxylic acid | 0.619 mmol, 0.280 g | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC2=C(SC(=C2)C(=O)O)C=C1)C)=O)(C)C | C27H32O4S
reactant | NaBH4 | 0.376 mmol, 14 mg | [BH4-].[Na+]
product | 5-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-2-carboxylic acid | 0.241 g, 86% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC2=C(SC(=C2)C(=O)O)C=C1 | C27H34O4S
